US06794385B2
Magnesium sulfate anhydrous (9.62 g, 80 mmol) was suspended at room temperature in dichloromethane (50 mL) and 96% sulfuric acid (1.1 mL, 20 mmol) was added, the mixture was vigorously stirred for 15 min and then 4-hydroxy-3-nitrobenzoic acid (3.7 g, 20.22 mmol) and tert-butanol (9.6 mL, 100 mmol) were added. Stirring was continued for 48 hours. A saturated sodium hydrogen carbonate solution (150 mL) was slowly added and the mixture was diluted with dichloromethane (150 mL). The organic layer was separated and dried (Na2SO4), evaporated to afford tert-butyl 4-hydroxy-3-nitrobenzoate as a yellow solid (4.43 g, 90%).

reactant | Magnesium sulfate anhydrous | 80 mmol, 9.62 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | sulfuric acid | 20 mmol, 1.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-hydroxy-3-nitrobenzoic acid | 20.22 mmol, 3.7 g | OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H5NO5
reactant | tert-butanol | 100 mmol, 9.6 mL | C(C)(C)(C)O | C4H10O
reactant | sodium hydrogen carbonate | 150 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | tert-butyl 4-hydroxy-3-nitrobenzoate | 4.43 g, 90% | OC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C11H13NO5
